US08012976B2
A mixture of ethyl 3-(1-methyl-1H-imidazol-2-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (140 mg) in 85% hydrazine monohydrate (3 mL) and methanol (5 mL) was stirred at room temperature for 2 days. The resulting mixture was filtered and the residue was washed with water (20 mL) and methanol (5 mL) to obtain a white solid. The solid was dried in vacuum at 50° C. to obtain 9-(1-methyl-1H-imidazol-2-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (95 mg, yield 74%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 3.40 (s, 3H), 4.64-4.67 (d, J=10.8 Hz, 1H), 4.92-4.94 (d, J=10.4 Hz, 1H), 6.72 (s, 1H), 6.87 (s, 1H), 7.15-7.17 (d, J=8.4 Hz, 2H), 7.26-7.30 (m, 3H), 7.38 (s, 3H), 7.55-7.59 (t, J=7.6 Hz, 1H), 12.15 (s, 1H); LC-MS (ESI) m/z: 344 (M+1)+.

reactant | ethyl 3-(1-methyl-1H-imidazol-2-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 140 mg | CN1C(=NC=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=CC=C1 | C22H21N3O3
reactant | hydrazine monohydrate | 3 mL | O.NN
solvent | methanol | 5 mL | CO | CH4O
product | 9-(1-methyl-1H-imidazol-2-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 95 mg, yield 74% | CN1C(=NC=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=CC=C2 | C20H17N5O
